US05459137
1-(4-Formylaminophenyl)-3-formyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
To 6.0 ml (0.104 mol) of acetic anhydride 3.0 ml (0.08 mol) of 100% formic acid were added dropwise at 0° C. during 5 minutes while constant stirring. The stirring was continued at 50° C. for 15 minutes. Thereafter 1 g (3.3 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine was added to the thus-prepared mixed anhydride. The reaction mixture was stirred at 25° C. for 1.5 hours, then poured into ice-water, the precipitate formed was filtered, washed with 4×5 ml of distilled water and dried at 80° C. to give 0.80 g of raw product. After crystallization from 3 ml of ethyl acetate 0.65 g (56.2%) of the aimed product was obtained, m.p.: 193°-195° C.

reactant | acetic anhydride | 0.104 mol, 6.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 3.3 mmol, 1 g | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H17N3O2
reactant | formic acid | C(=O)O | CH2O2
product | 1-(4-Formylaminophenyl)-3-formyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 0.80 g | C(=O)NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C=O | C19H17N3O4
